US09126993B2
quinuclidin-3-yl2′-methoxybiphenyl-3-ylcarbamate
Using general procedure E, quinuclidin-3-yl3-bromophenylcarbamate, 2-methoxy-phenylboronic acid and [PdCl2(pddf)]CH2Cl2 gave the title compound as a white solid (75 mg, 58%). 1H NMR (500 MHz, CDCl3) δ 7.49 (br s, 1H), 7.41 (br s, 1H), 7.37-7.28 (m, 3H), 7.23 (d, J=7.5 Hz, 1H), 7.04-6.94 (m, 3H), 4.83 (m, 1H), 3.80 (s, 3H), 3.29 (m, 1H), 2.97-2.70 (m, 5H), 2.10 (m, 1H), 1.91-1.82 (m, 1H), 1.74-1.65 (m, 1H), 1.62-1.53 (m, 1H), 1.46-1.37 (m, 1H) ppm. 13C NMR (125 MHz, CDCl3) δ 156.4, 153.4, 139.4, 137.6, 130.9, 130.2, 128.8, 128.6, 124.8, 120.8, 119.9, 117.3, 111.2, 72.0, 55.6, 55.4, 47.4, 46.5, 25.4, 24.5, 19.5 ppm. Purity: >95% LCMS (214 nm & 254 nm); retention time 1.52 min; (M+1) 353.

reactant | quinuclidin-3-yl3-bromophenylcarbamate | N12CC(C(CC1)CC2)OC(NC2=CC(=CC=C2)Br)=O | C14H17BrN2O2
reactant | 2-methoxy-phenylboronic acid | COC1=C(C=CC=C1)B(O)O | C7H9BO3
product | quinuclidin-3-yl2′-methoxybiphenyl-3-ylcarbamate | 75 mg, 58% | N12CC(C(CC1)CC2)OC(NC=2C=C(C=CC2)C2=C(C=CC=C2)OC)=O | C21H24N2O3
